US05386047
Preparation of cyanoacetoxypropenylchlorodimethylsilane (I)
Chlorodimethylsilane (29.59 g, 0.313 mol) was added dropwise at 80° C. to a solution of 35.0 g (0.284 mol) propargyl cyanoacetate, 0.1 g of a solution of 1,3 divinyl- 1,1,3,3-tetramethyldisiloxane/Pt(0) complex containing 5 wt % platinum in xylenes (Karstedt catalyst) and 50 ml toluene under a nitrogen blanket. The reaction was stirred 3 hours at 80° C. after the addition. An IR spectrum confirmed disappearance of Sill at 2160 cm-1. After removing low-boiling volatiles by rotary evaporation, the crude product was purified by vacuum distillation. Upon removal of a small forecut at 80° C. at 0.1 mm Hg, the product distilled at 100°-115° C. at 0.1 m Hg. Yield: 47.1 g (76%) of a clear, greenish tinged liquid. Its structure was confirmed to be cyanoacetoxypropenylchlorodimethylsilane by IR and proton NMR.

reactant | Chlorodimethylsilane | 0.313 mol, 29.59 g | Cl[SiH](C)C | C2H7ClSi
reactant | propargyl cyanoacetate | 0.284 mol, 35.0 g | C(#N)CC(=O)OCC#C | C6H5NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum | [Pt] | Pt
product | cyanoacetoxypropenylchlorodimethylsilane | C(#N)CC(=O)OCC=C[Si](C)(C)Cl | C8H12ClNO2Si
